data/oMe_Silver.jsonl
{"reaction_id": "NR-139_1-c1ccccc1_2-c1ccc(Cl)cc1_3-C#Cc1ccccc1_4-c1cscn1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cscn1)(c1ccccc1)(c1ccc(Cl)cc1)(C#Cc1ccccc1)"],"products_smiles": ["C(c1ccccc1)(c1ccc(Cl)cc1)(C#Cc1ccccc1)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cscn1)(c1ccccc1)(c1ccc(Cl)cc1)(C#Cc1ccccc1)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](c1ccccc1)(c1ccc(Cl)cc1)(C#Cc1ccccc1)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccccc1)(c1ccc(Cl)cc1)(C#Cc1ccccc1)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
{"reaction_id": "NR-141_1-c1ccc(OC)cc1_2-c1sccc1","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)(c1sccc1)"],"products_smiles": ["C(O)(c1ccc(OC)cc1)(c1sccc1)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(c1ccc(OC)cc1)(c1sccc1)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(c1ccc(OC)cc1)(c1sccc1)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(OC)cc1)(c1sccc1)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
